US06316444B1
Step C: 1-Benzyloxycarbonyl-2-(1-hydroxyethyl)-4-tert-butyloxycarbonyl-piperazine
To a solution of 6.50 g of 1-benzyloxycarbonyl-2-acetyl-4-tert-butyloxycarbonyl-piperazine in 150 mL of 1:1 THF-EtOH was added 1.35 g of sodium borohydride, in several portions. The mixture was stirred at room temperature for 30 min, then quenched by slow addition of 100 mL of saturated NaHCO3. The mixture was diluted with 150 mL of water and the phases were separated. The aqueous phase was extracted with 2×100 mL of EtOAc. The combined organics were washed with 100 mL of brine, dried over MgSO4, and concentrated. The residue was purified by flash chromatography, eluting with 2:1 hexanes-EtOAc, to yield 3.05 g of diastereomer 1 and 272 g of diastereomer 2. Data for diastereomer 1. Rf 0.63 (1:1 hexanes-EtOAc). 1H NMR (500 MHz, DMSO-d6, 75° C.): δ7.24-7.40 (m, 5H), 5.10 (s, 2H), 4.52 (d, J=5.0 Hz, 1H), 4.20 (d, J=13.1 Hz, 1H), 3.71-3.92 (m, 4H), 2.76-2.96 (m, 3H),1.40 (s, 9H), 1.00 (d, J=5.5 Hz, 3H). Mass spectrum (ESI) 309.1 (M-BOC). Data for diastereomer 2. Rf 0.53 (1:1 hexanes-EtOAc). 1H NMR (500 MHz, DMSO-d6, 75° C.): δ7.23-7.40 (m, 5H), 5.08 (s, 2H), 4.41 (br s, 1H), 3.74-3.92 (m, 5H), 3.02-3.11 (m, 1H),2.98 (dd, J=3.4, 13.5 Hz, 1H), 2.28 (br t, J=11.7 Hz, 1H), 1.40 (s, 9H), 1.16 (d, J=6.0 Hz, 3H).

reactant | 1-benzyloxycarbonyl-2-acetyl-4-tert-butyloxycarbonyl-piperazine | 6.50 g | C(C1=CC=CC=C1)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(C)=O | C19H26N2O5
reactant | sodium borohydride | 1.35 g | [BH4-].[Na+]
solvent | THF EtOH | 150 mL | C1CCOC1.CCO
product | 1-Benzyloxycarbonyl-2-(1-hydroxyethyl)-4-tert-butyloxycarbonyl-piperazine | C(C1=CC=CC=C1)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(C)O | C19H28N2O5
